US06867207B2
NaH (0.0772 mol) was added portionwise at 0° C. under N2 flow to a mixture of 4-chloro-benzeneacetonitrile (0.0643 mol) in DMF (50 ml). The mixture was stirred at 0° C. under N2 flow for 1 hour. A mixture of 1,3-dibromo-2-methoxy-5-nitro-benzene (0.0643 mol) in DMF (50 ml) was added at 0° C. under N2 flow. The mixture was stirred at RT for 3 hours, hydrolized with H2O and HCl 3N and extracted with EtOAc. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/cyclohexane 60/40). The pure fractions were collected and the solvent was evaporated, yielding 12.8 g (46%) of (±)-2,6-dibromo-α-(4-chlorophenyl)-4-nitrobenzeneacetonitrile (interm. 76).

reactant | NaH | 0.0772 mol | [H-].[Na+]
reactant | 4-chloro-benzeneacetonitrile | 0.0643 mol | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | 1,3-dibromo-2-methoxy-5-nitro-benzene | 0.0643 mol | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)OC | C7H5Br2NO3
reactant | HCl | 3N | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (±)-2,6-dibromo-α-(4-chlorophenyl)-4-nitrobenzeneacetonitrile | 12.8 g, 46% | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)C(C#N)C1=CC=C(C=C1)Cl | C14H7Br2ClN2O2
